US06143772
6.1. 5-Nitro-2-phenylbenzofuran
39 g (78 mmol) of (2-hydroxy-5-nitrophenyl) methyltriphenylphosphonium bromide and 18 ml (156 mmol) of benzoyl chloride are treated under conditions analogous to those of step 1 of Example 1. 15 g of product are obtained. Melting point: 159° C.

reactant | (2-hydroxy-5-nitrophenyl) methyltriphenylphosphonium bromide | 78 mmol, 39 g | [Br-].OC1=C(C=C(C=C1)[N+](=O)[O-])C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | benzoyl chloride | 156 mmol, 18 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | 5-Nitro-2-phenylbenzofuran | 15 g | [N+](=O)([O-])C=1C=CC2=C(C=C(O2)C2=CC=CC=C2)C1 | C14H9NO3
